US08703758B2
K) 2-[trans-4-(3-azidobutyl)cyclohexyl]-6-(cyclopropylmethoxy)-2H-indazole
A mixture of 3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl methanesulfonate (2.95 g), sodium azide (1.37 g) and DMF (100 mL) was stirred at 80° C. for 2 hr. The reaction mixture was allowed to cool to room temperature, and concentrated under reduced pressure. The residue was diluted with ethyl acetate and water, and the organic layer was separated. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (2.50 g).

reactant | 3-{trans-4-[6-(cyclopropylmethoxy)-2H-indazol-2-yl]cyclohexyl}-1-methylpropyl methanesulfonate | 2.95 g | CS(=O)(=O)OC(CC[C@@H]1CC[C@H](CC1)N1N=C2C=C(C=CC2=C1)OCC1CC1)C | C22H32N2O4S
reactant | sodium azide | 1.37 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-[trans-4-(3-azidobutyl)cyclohexyl]-6-(cyclopropylmethoxy)-2H-indazole | 2.50 g | N(=[N+]=[N-])C(CC[C@@H]1CC[C@H](CC1)N1N=C2C=C(C=CC2=C1)OCC1CC1)C | C21H29N5O
